US04028386
This and the next reaction could be effected with the E and Z isomers or mixtures thereof. A solution of 1.1 g of 2,2-ethylenedioxy-10-methoxy-6,10-dimethyl-5-undecene in 22 ml of methanol containing 11 ml of 0.5N aqueous hydrochloric acid was stirred for 20 hours at room temperature and was then diluted with water and extracted with petroleum ether (b.p.= 40°-75° C.). The extracts were washed with an aqueous sodium bicarbonate solution, then with water and evaporated to dryness to obtain 900 mg of 10-methoxy-6,10-dimethyl-5-undecene-2-one in the form of a colorless oil which was used as is for the next step.

reactant | 2,2-ethylenedioxy-10-methoxy-6,10-dimethyl-5-undecene | 1.1 g | C1OC(C)(CCC=C(CCCC(C)(C)OC)C)OC1 | C16H30O3
reactant | hydrochloric acid | 0.5N | Cl | ClH
solvent | methanol | 22 ml | CO | CH4O
solvent | water | O | H2O
product | 10-methoxy-6,10-dimethyl-5-undecene-2-one | 900 mg | COC(CCCC(=CCCC(C)=O)C)(C)C | C14H26O2
